US08865713B2
Step C: 2-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester.
To a mixture of 2-chloro-1H-benzoimidazole-5-carboxylic acid methyl ester (2.00 g, 9.50 mmol) and THF (17 mL) was added DIPEA (2.46 mL, 14.3 mmol) followed by 1-chloromethoxy-2-methoxy-ethane (1.30 mL, 11.4 mmol) at 23° C. After stirring for 18 h the reaction mixture was concentrated under reduced pressure. The residue was purified (FCC) (5-50% EtOAc/hexanes) to yield the titled compound as a mixture of regioisomers (1.71 g, 60%). MS (ESI/CI): mass calcd. for C13H15ClN2O4, 298.1; m/z found, 299.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 8.34-8.31 (m, 1H), 8.21-8.20 (m, 1H), 7.98 (dd, J=8.6, 1.6 Hz, 1H), 7.91 (dd, J=8.5, 1.6 Hz, 1H), 7.83 (dd, J=8.6, 0.5 Hz, 1H), 7.74 (dd, J=8.5, 0.5 Hz, 1H), 5.78 (s, 1H), 5.73 (s, 1H), 3.89 (d, J=6.3 Hz, 6H), 3.64-3.60 (m, 5H), 3.43-3.39 (m, 5H), 3.17 (d, J=2.6 Hz, 6H).

reactant | 2-chloro-1H-benzoimidazole-5-carboxylic acid methyl ester | 9.50 mmol, 2.00 g | COC(=O)C1=CC2=C(NC(=N2)Cl)C=C1 | C9H7ClN2O2
reactant | DIPEA | 14.3 mmol, 2.46 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chloromethoxy-2-methoxy-ethane | 11.4 mmol, 1.30 mL | ClCOCCOC | C4H9ClO2
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 2-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N(C(=N2)Cl)COCCOC)C=C1 | C13H15ClN2O4
